spice
* SPICE Netlist

M1 2 2 0 0 NMOS
M2 2 2 0 0 NMOS
M3 3 3 4 4 PMOS
M4 3 3 4 4 PMOS

IREF 2 0 DC VALUE

RS 4 3 RESISTANCE_VALUE

VDD 4 0 DC VALUE

.END